US04055592
(3-Trifluoromethylphenoxy)(4-chlorophenyl)acetyl chloride (0.02 mole) in tetrahydrofuran (50 ml.) is added over a 15-minute period to a solution of the sodium salt of methanesulfonamide (2.5 g., 0.021 mole) in tetrahydrofuran (50 ml.) at 0°-5° C., under a nitrogen atmosphere. The mixture is stirred at 20° C. for 20 hours and then the solvent is evaporated under vacuum. The residue is dissolved in chloroform and the solution is extracted with water. The chloroform solution is dried over anhydrous magnesium sulfate, filtered and the solvent removed to afford N-methanesulfonyl (3-trifluoromethylphenoxy)(4-chlorophenyl)acetamide.

reactant | (3-Trifluoromethylphenoxy)(4-chlorophenyl)acetyl chloride | 0.02 mole | FC(C=1C=C(OC(C(=O)Cl)C2=CC=C(C=C2)Cl)C=CC1)(F)F | C15H9Cl2F3O2
reactant | sodium | [Na] | Na
reactant | methanesulfonamide | 0.021 mole, 2.5 g | CS(=O)(=O)N | CH5NO2S
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | N-methanesulfonyl (3-trifluoromethylphenoxy)(4-chlorophenyl)acetamide | CS(=O)(=O)NC(C(C1=CC=C(C=C1)Cl)OC1=CC(=CC=C1)C(F)(F)F)=O | C16H13ClF3NO4S
